US06184245B2
Synthesis of Compound 12: 3-{2-(3,5-dimethylthiophene-2-yl)}acetyl-4-hydroxy-6-methyl-pyrone
The 3.82 g (22.4 mmol) of 3,5-dimethylthiopheneacetic acid, 2.87 g (22.7 mmol) of 4-hydroxy-6-methyl-2-pyrone and 5.13 g (24.8 mmol) of DCC were suspended in 70 ml of toluene, then 273 mg (2.23 mmol) of DMAP added and stirring carried out overnight at 90° C. The reaction liquid was cooled to room temperature and the insoluble material filtered off. The mother liquor was concentrated and the residue purified by column chromatography. The solid obtained was recrystallized from ethanol and Compound 12 (684 mg, 2.45 mmol, 11%) obtained. This was converted to the sodium salt with an equivalent quantity of sodium hydrogen carbonate.

reactant | 3,5-dimethylthiopheneacetic acid | 22.4 mmol, 3.82 g | CC1=C(SC(=C1)C)CC(=O)O | C8H10O2S
reactant | 4-hydroxy-6-methyl-2-pyrone | 22.7 mmol, 2.87 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | DCC | 24.8 mmol, 5.13 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | sodium | [Na] | Na
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 2.23 mmol, 273 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethanol | C(C)O | C2H6O
product | 3-{2-(3,5-dimethylthiophene-2-yl)}acetyl-4-hydroxy-6-methyl-pyrone | CC1=C(SC(=C1)C)CC(=O)C=1C(OC(=CC1O)C)=O | C14H14O4S
